US04267184
4,5-Diphenyl-2-(methylthio)pyrrole
To a mixture of 1.4 g (0.005 mole) 2,3-diphenyl-5-thiocyanatopyrrole, 0.85 g (0.006 mole) methyl iodide in 10 ml methanol was added dropwise at 0° a solution of 0.8 g (~0.012 mole, 85%) potassium hydroxide in 5 ml water+5 ml methanol. The mixture was allowed to warm to room temperature, then was poured into 100 ml ice water and neutralized with hydrochloric acid. The aqueous mixture was extracted with methylene chloride, and the extracts dried and concentrated. The residue was chromatographed on 50 g Silic AR CC-7, eluting with toluene to give 1.2 g (90%) yellow oil.

reactant | 2,3-diphenyl-5-thiocyanatopyrrole | 0.005 mole, 1.4 g | C1(=CC=CC=C1)C=1NC(=CC1C1=CC=CC=C1)SC#N | C17H12N2S
reactant | methyl iodide | 0.006 mole, 0.85 g | CI | CH3I
reactant | potassium hydroxide | ~0.012 mole, 0.8 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 4,5-Diphenyl-2-(methylthio)pyrrole | 1.2 g, 90% | C1(=CC=CC=C1)C=1C=C(NC1C1=CC=CC=C1)SC | C17H15NS
